US07566797B2
3-(benzyloxy)-bicyclo[2.2.1]heptane-2-carboxylic acid
33.2 g (0.2 mol) bicyclo[2.2.1]heptane dicarboxylic anhydride and 27 g (0.25 mol) benzyl alcohol were charged to 500 ml chloroform in a 1 L round bottom flask. The system was refluxed for 16 hours with magnetic stirring. The solvent was then removed by rotary evaporator. The solid was then dried and grounded. The product was characterized using FTIR and GC-MS. The yield was quantitative.

reactant | bicyclo[2.2.1]heptane dicarboxylic anhydride | 0.2 mol, 33.2 g | C123C(CC(CC1)C2)C(=O)OC3=O | C9H10O3
reactant | benzyl alcohol | 0.25 mol, 27 g | C(C1=CC=CC=C1)O | C7H8O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(benzyloxy)-bicyclo[2.2.1]heptane-2-carboxylic acid | C(C1=CC=CC=C1)OC1C(C2CCC1C2)C(=O)O | C15H18O3
